US07919506B2
Ethyl 4-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate
To a suspension of N-(2-(4-methoxypiperidin-4-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (31 mg; 0.049 mmol) in methylene chloride (0.5 mL) was added diisopropylethylamine (0.05 mL; 0.287 mmol). Ethyl chloroformate (10uL; 0.104 mmol) was then added. The resulting reaction was stirred at room temperature for 16 hours. The reaction was filtered over a column of silica/sodium sulfate and concentrated under reduced pressure. The residue was purified by 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (30-85% ethyl acetate in heptane) to give 32 mg (98%) of a gum. MS (ES+): Calc: 668.5, Found: 669.6 (M+H), 1H NMR (400 MHz, CDCl3) δ ppm 7.79 (s, 1H), 7.73 (s, 2H), 7.51 (d, J=6.64 Hz, 1H), 7.50 (s, 1H), 7.36 (d, J=8.71 Hz, 1H), 5.10 (s, 2H), 4.82 (s, 2H), 4.2 (s, 3H), 4.14 (q, J=7.05, 2H), 4.02 (bm, 2H), 3.16 (t, J=12.45 Hz, 2H), 2.95 (s, 3H), 2.14 (m, 2H), 1.9-1.63 (m, 2H), 1.27 (t, J=7.05 Hz, 3H).

reactant | N-(2-(4-methoxypiperidin-4-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 0.049 mmol, 31 mg | COC1(CCNCC1)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C25H25F9N6O
reactant | diisopropylethylamine | 0.287 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl chloroformate | 0.104 mmol, 10uL | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-4-methoxypiperidine-1-carboxylate | 32 mg, 98% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C2(CCN(CC2)C(=O)OCC)OC)C=C(C1)C(F)(F)F)(F)F | C28H29F9N6O3
